US06660744B1
A mixture of 4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenol (0.200 g, 0.491 mmol, 1 equiv) and 60% sodium hydride (0.020 g, 0.49 mmol, 1 equiv) in dioxane (4.9 mL) was stirred at ambient temperature for 20 minutes. 2-Fluoronitrobenzene (0.06 mL, 0.6 mmol, 1.1 equiv) was added and the reaction mixture was heated at 100° C. for 3 h. Additional sodium hydride (0.010 g, 0.24 mmol, 0.5 equiv) and 2-fluoronitrobenzene (0.02 mL, 0.2 mmol, 0.4 equiv) were added and the reaction mixture was heated at 100° C. for 3 h. The reaction mixture was allowed to cool to room temperature and the resulting solid was removed by filtration with the aid of CH2Cl2 (10 mL) and EtOAc (10 mL). The filtrate was concentrated to afford a yellow semi-solid which was purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 Å, 25 cm; 10%-60% acetonitrile-0.1M ammonium acetate over 20 min, 21 mL/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to afford cis-1-[4-(4-methylpiperazino)cyclohexyl]-3-[4-(2-nitrophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate salt as a white solid (0.023 g, 0.043 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.23 (1H, s), 8.10 (1H, d, J=8.2 Hz), 7.68-7.73 (3H, m), 7.33-7.40 (1H, m), 7.31 (1H, d, J=7.3 Hz), 7.24 (2H, d, J=8.7 Hz), 4.76-4.82 (1H, m), 2.26-2.51 (1H, m), 2.24 (3H, s), 2.17-2.21 (2H, m), 2.05 (6H, s), 1.56-1.71 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 13.09 min.

reactant | 4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenol | 0.491 mmol, 0.200 g, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)O)C2CCC(CC2)N2CCN(CC2)C | C22H29N7O
reactant | sodium hydride | 0.49 mmol, 0.020 g, 1 equiv | [H-].[Na+]
reactant | 2-Fluoronitrobenzene | 0.6 mmol, 0.06 mL, 1.1 equiv | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium hydride | 0.24 mmol, 0.010 g, 0.5 equiv | [H-].[Na+]
reactant | 2-fluoronitrobenzene | 0.2 mmol, 0.02 mL, 0.4 equiv | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dioxane | 4.9 mL | O1CCOCC1 | C4H8O2
product | cis-1-[4-(4-methylpiperazino)cyclohexyl]-3-[4-(2-nitrophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate salt | 0.043 mmol, 0.023 g | C(C)(=O)O.C(C)(=O)O.CN1CCN(CC1)[C@H]1CC[C@H](CC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=C(C=CC=C2)[N+](=O)[O-] | InChI=1S/C28H32N8O3.2C2H4O2/c1-33-14-16-34(17-15-33)20-8-10-21(11-9-20)35-28-25(27(29)30-18-31-28)26(32-35)19-6-12-22(13-7-19)39-24-5-3-2-4-23(24)36(37)38;2*1-2(3)4/h2-7,12-13,18,20-21H,8-11,14-17H2,1H3,(H2,29,30,31);2*1H3,(H,3,4)/t20-,21+;;
